US09290451B2
c) 6-Cyclopropylmethoxy-5-(6-oxa-1-aza-spiro[3.3]hept-1-yl)-pyridine-2-carboxylic acid ((S)-3,3-dimethyl-1-methylcarbamoyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(cyclopropylmethoxy)-5-(6-oxa-1-azaspiro[3.3]heptan-1-yl)picolinic acid and (2S)-2-amino-N,4,4-trimethyl-pentanamide (CAN 1160161-70-5) as starting materials. MS (EI): m/e=431.1 [M+H]+.

reactant | 6-(cyclopropylmethoxy)-5-(6-oxa-1-azaspiro[3.3]heptan-1-yl)picolinic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CCC12COC2 | C15H18N2O4
reactant | (2S)-2-amino-N,4,4-trimethyl-pentanamide | N[C@H](C(=O)NC)CC(C)(C)C | C8H18N2O
product | 6-Cyclopropylmethoxy-5-(6-oxa-1-aza-spiro[3.3]hept-1-yl)-pyridine-2-carboxylic acid ((S)-3,3-dimethyl-1-methylcarbamoyl-butyl)-amide | CC(C[C@@H](C(NC)=O)NC(=O)C1=NC(=C(C=C1)N1CCC12COC2)OCC2CC2)(C)C | C23H34N4O4
